US08202868B2
N-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-nicotinamide
0.35 g of nicotinic acid (2.84 mmol) and 0.87 g of triethylamine (8.62 mmol) were dissolved in 30 ml of dimethylformamide. 0.45 g of hydroxybenzotriazole (HOBt, 3.33 mmol), 1.1 g of 4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine (3.18 mmol), and 0.6 g of N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride (EDCl, 3.13 mmol) were added at room temperature, and the reaction mixture was stirred for 16 h. The reaction mixture was partitioned between water and ethyl acetate. The organic phase was dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using dichloromethane-methanol (2-10%). The residue was treated with acetonitrile, filtered and dried to yield 0.75 g of the title compound as a white solid.

reactant | nicotinic acid | 2.84 mmol, 0.35 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | triethylamine | 8.62 mmol, 0.87 g | C(C)N(CC)CC | C6H15N
reactant | hydroxybenzotriazole | 3.33 mmol, 0.45 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine | 3.18 mmol, 1.1 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN)C1CCC1 | C20H35N5
reactant | N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 3.13 mmol, 0.6 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-nicotinamide | 0.75 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCNC(C1=CN=CC=C1)=O)C1CCC1 | C26H38N6O
